US07081454B2
3-(6-Imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one:
To a solution of 3-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-4-iodo-1H-pyridin-2-one (25 mg, 0.06 mmol) in DMF (2 mL) were added pyridine carbinol (26 mg, 0.24 mmol) and cesium fluoride (36 mg, 0.24 mmol). The reaction mixture was heated to 130° C. for 14 h and cooled to room temperature. After concentration in vacuo, the residue was purified by prep. HPLC to yield the title compound (8.2 mg, 34%). 1H NMR (300 MHz, CD3OD) δ 9.58 (1H, narrow d, J=1.2 Hz), 8.92 (1H, d, J=4.9 Hz), 8.19 (1H, narrow t, J=1.2 Hz), 8.12 (1H, s), 7.97–8.02 (2H, m), 7.85 (1H, narrow t, J=1.8 Hz), 7.81 (1H, narrow t, J=1.0 Hz), 7.63 (1H, d, J=7.9 Hz), 7.54 (1H, t, J=6.2 Hz), 6.81 (1H, J=7.5 Hz), 5.86 (2H, s), 2.86 (3H, s). LCMS (M+H)+ m/z 399 (t=1.07 min.).

reactant | 3-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-4-iodo-1H-pyridin-2-one | 0.06 mmol, 25 mg | N1(C=NC=C1)C=1C=C(C2=C(NC(=N2)C=2C(NC=CC2I)=O)C1)C | C16H12IN5O
reactant | pyridine carbinol | 0.24 mmol, 26 mg | CO.N1=CC=CC=C1
reactant | cesium fluoride | 0.24 mmol, 36 mg | [F-].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(6-Imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one | 8.2 mg, 34% | N1(C=NC=C1)C=1C=C(C2=C(NC(=N2)C=2C(NC=CC2OCC2=NC=CC=C2)=O)C1)C | C22H18N6O2
